data/oMe_Silver.jsonl
{"reaction_id": "NR-137_1-C(C)(C)C_2-c1ccccc1_3-C(C)(C)C_4-CCCC(C)C","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(C(C)(C)C)C(=O)C(c1ccccc1)","O=CC(C(C)(C)C)"],"products_smiles": ["C1(C(C)(C)C)OC(CCCC(C)C)C(c1ccccc1)C(=O)C1(C(C)(C)C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccccc1)C(=O)C(=C(C(C)(C)C))(C(C)(C)C)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)=C(C(C)(C)C)C(=O)C(c1ccccc1)C(O)(CCCC(C)C)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)=C(C(C)(C)C)C(=[OH+])C(c1ccccc1)C(O)(CCCC(C)C)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)(C)C)C(C(C)(C)C)=C(O)C(c1ccccc1)C(CCCC(C)C)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)C(C(C)(C)C)=C(O)C(c1ccccc1)C(CCCC(C)C)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)OC(CCCC(C)C)C(c1ccccc1)C(=O)C1(C(C)(C)C)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
{"reaction_id": "NR-218_1-c1ccccn1_2-C(C)(C)C","level": "medium","name": "Petrenko-Kritschenko Piperidone Synthesis","reactants_smiles": ["O=C(OCC)C(c1ccccn1)C(=O)C(c1ccccn1)C(=O)OCC","O=CC(C(C)(C)C)","N"],"products_smiles": ["C1(C(c1ccccn1)(C(NC(C(c1ccccn1)1C(OCC)=O)(CC(C)(C)C))(CC(C)(C)C))C(OCC)=O)=O"],"conditions": "acid","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccccn1)(C(N)C(C(C)(C)C))C(=O)C(c1ccccn1)C(=O)OCC","step_weight": 0,"rationale": "Ammonia attacks the aldehyde carbonyl due to its high electrophilicity, and acid catalysis enhances carbonyl polarization, facilitating imine precursor formation."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(c1ccccn1)(C(N=C(CC(C)(C)C))C(C(C)(C)C))C(=O)C(c1ccccn1)C(=O)OCC","step_weight": 0,"rationale": "The β-keto ester enolate, stabilized by resonance, attacks the iminium carbon, favored by strong electrophilicity and acid-promoted enolization."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(c1ccccn1)(C(NC(C(c1ccccn1)1C(OCC)=O)(CC(C)(C)C))(CC(C)(C)C))C(OCC)=O)=O","step_weight": 0,"rationale": "Intramolecular attack is entropically favored; iminium electrophilicity and β-keto ester nucleophilicity drive cyclization to the thermodynamically stable piperidone."}],"description": "Under acidic conditions, ammonia first condenses with the aldehyde to form an imine, which is electrophilic. The β-keto ester enolate then attacks this iminium ion in a Mannich-type step. A second imine formation and intramolecular Mannich cyclization yield the piperidone ring."}
